US04436668
The procedure described in Example 4 is followed, but the n-pentanol and n-pentyl carbamate are replaced respectively by isoamyl alcohol and isoamyl carbamate, and diazabicyclo-[4,3,0]-nonene is used as the catalyst. After completion of the reaction, analysis by gas chromatography shows that 66.9% of isoamyl carbamate have been converted and 120.3 parts of diisoamyl carbonate (89% of theory, based on converted isoamyl carbamate), of boiling point 106°-108° C./18 mbar, have been formed.

reactant | n-pentanol | C(CCCC)O | C5H12O
reactant | n-pentyl carbamate | C(N)(OCCCCC)=O | C6H13NO2
reactant | isoamyl carbamate | C(N)(OCCC(C)C)=O | C6H13NO2
reactant | diazabicyclo-[4,3,0]-nonene | C12=NNCCC2CCC1 | C7H12N2
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | diisoamyl carbonate | 89% | C(OCCC(C)C)(OCCC(C)C)=O | C11H22O3
